US08614206B2
Step 3: 4-cyclopropyl-2-fluoroaniline
A mixture of 4-cyclopropyl-2-fluoro-1-nitrobenzene (3.36 g, 18.55 mmol), powdered iron (4.35 g, 77.9 mmol), and 2M ammonium chloride in water (19.8 mL) and 3:2:1 v/v EtOH:THF:H2O (86 mL) was stirred at reflux under N2 for 17 h. The reaction mixture was cooled to RT and filtered through a pad of Celite. The Celite pad was rinsed well with ethyl acetate (˜50 mL). Saturated aqueous NaHCO3 solution was slowly added to the filtrate to neutralize the reaction mixture. The reaction mixture was extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude residue was purified via flash column chromatography eluted with 0 to 75% ethyl acetate/hexane to give 2.80 g (99%) of an orange oil, which solidified at 20° C. 1H NMR (400 MHz, CDCl3) δ 6.75-6.63 (m, 3H), 3.57 (s, 2H), 1.87-1.72 (m, 1H), 0.93-0.83 (m, 2H), 0.64-0.51 (m, 2H); MS (ESI) m/z: 152.3 [M+H]+.

reactant | 4-cyclopropyl-2-fluoro-1-nitrobenzene | 18.55 mmol, 3.36 g | C1(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C9H8FNO2
reactant | ammonium chloride | 2M | [Cl-].[NH4+]
reactant | EtOH | CCO | C2H6O
reactant | THF | C1CCOC1 | C4H8O
solvent | water | 19.8 mL | O | H2O
catalyst | iron | 77.9 mmol, 4.35 g | [Fe] | Fe
solvent | H2O | 86 mL | O | H2O
product | 4-cyclopropyl-2-fluoroaniline | 2.80 g, 99% | C1(CC1)C1=CC(=C(N)C=C1)F | C9H10FN
